US08076374B2
Step E. 3-{4-[1-Allyl-1-(4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoylamino}-propionic acid methyl ester
A solution of 4-[1-allyl-1-(4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoic acid (0.044 g, 0.094 mmol), beta-alanine, hydrochloride salt (0.0189 g, 0.135 mmol), and 1-hydroxybenzotriazole hydrate (0.0193 g, 0.143 mmol) in DMF (2.0 mL) is treated with N,N-diisopropylethylamine (0.0480 mL, 0.275 mmol), then 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.0278 g, 0.145 mmol) and stirred overnight. The reaction mixture is diluted with water (5 mL) and extracted with EtOAc (3×10 mL). The combined organic extracts are washed with water, brine, dried over MgSO4, filtered, and concentrated. The residue is loaded onto silica gel and eluted with hexanes using a gradient of 10% EtOAc to 75% EtOAc to provide 0.0298 g (58%) of the title compound as a clear film. MS (ES): 552.2 [M+H]−.

reactant | 4-[1-allyl-1-(4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoic acid | 0.094 mmol, 0.044 g | C(C=C)C(CC=C)(COC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C(=O)O)C=C1 | C28H25F3O3
reactant | beta-alanine, hydrochloride salt | 0.135 mmol, 0.0189 g | Cl.NCCC(=O)O
reactant | 1-hydroxybenzotriazole hydrate | 0.143 mmol, 0.0193 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 0.275 mmol, 0.0480 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.145 mmol, 0.0278 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
product | 3-{4-[1-Allyl-1-(4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-benzoylamino}-propionic acid methyl ester | 0.0298 g, 58% | COC(CCNC(C1=CC=C(C=C1)C(CC=C)(COC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)CC=C)=O)=O | C32H32F3NO4
